US05334748
A mixture of the sodium salt of 3-methoxythiophenol [prepared by treatment of 3-methoxythiophenol (2.8 g) with sodium hydroxide (0.8 g) in methanol (20 ml) followed by evaporation to dryness], 2-bromophenylacetic acid (4.3 g) and copper(I) chloride (0.4 g) in dry DMF (25 ml) was heated overnight at reflux. The reaction mixture was cooled, poured into water and acidified with dilute hydrochloric acid. The aqueous mixture was extracted with ether (×3) and the combined ether extracts were extracted in turn with dilute sodium hydroxide solution (×2). The combined aqueous hydroxide extracts were acidified with dilute hydrochloric acid and re-extracted with ether (>3). These combined ether extracts were washed with water (×3), dried and evaporated to give an orange oil (3.5 g, 96.8% by GC). The oil was treated with acidic methanol overnight at room temperature. Normal work-up afforded methyl 2-(3-methoxyphenylthio)phenylacetate (2.9 g, 91% by GC) as a yellow liquid which was used in the next stage without further purification.

reactant | sodium | [Na] | Na
reactant | 3-methoxythiophenol | 20 ml, 2.8 g | COC=1C=C(C=CC1)S | C7H8OS
reactant | 2-bromophenylacetic acid | 4.3 g | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | hydrochloric acid | Cl | ClH
reactant | DMF | 25 ml | CN(C)C=O | C3H7NO
catalyst | copper(I) chloride | 0.4 g | [Cu]Cl
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | methyl 2-(3-methoxyphenylthio)phenylacetate | 2.9 g, 91% | COC=1C=C(C=CC1)SC1=C(C=CC=C1)CC(=O)OC | C16H16O3S
